US05300639
2-(4-Methoxy-3-pentyloxystyryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine
Amyl bromide (0.49 ml) and potassium carbonate (0.46 g) were added to a solution (20 ml) of 2-(3-hydroxy-4-methoxy-styryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine (1.00 g) in dimethylformamide, and the whole was stirred for 1 hr. at 100°. After cooling, the reaction mixture was washed with water, dried and concentrated under reduced pressure. The residue was purified by a column chromatography on silica gel, and recrystallized from isopropyl ether to give the title compound (0.19 g, 15.4%). m.p. 124-125°.

reactant | Amyl bromide | 0.49 ml | C(CCCC)Br | C5H11Br
reactant | potassium carbonate | 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(3-hydroxy-4-methoxy-styryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 20 ml, 1.00 g | OC=1C=C(C=CC=2SC=3NCCCCC3N2)C=CC1OC | C16H18N2O2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(4-Methoxy-3-pentyloxystyryl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | 0.19 g, 15.4% | COC1=C(C=C(C=CC=2SC=3NCCCCC3N2)C=C1)OCCCCC | C21H28N2O2S
